US07381728B2
N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-5-{3-[(methyloxy)methyl]phenyl}-2-thiophenesulfonamide (E123)
To a mixture of 5-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-thiophenesulfonamide (E122) (100 mg, 0.22 mmol) and {3-[(methyloxy)methyl]phenyl}boronic acid (83 mg, 0.5 mmol) in DME (3 ml) was added potassium tert-butoxide (210 mg, 1.9 mmol) and tetrakis(triphenylphosphine)palladium(0) (15 mg, 0.013 mmol) in water (1 ml) and the resulting mixture stirred in a microwave (set at high absorbance) at 100° C. for 30 minutes. The resulting mixture was then concentrated in Genevac and residues passed over SCX. Basic fractions were re-concentrated in Genevac and the residue purified using mass directed autoprep HPLC to afford the title compound (E123). MS (ES+) m/e 502 [M+H]+.

reactant | 5-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-thiophenesulfonamide | 0.22 mmol, 100 mg | BrC1=CC=C(S1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC | C17H22BrN3O3S2
reactant | {3-[(methyloxy)methyl]phenyl}boronic acid | 0.5 mmol, 83 mg | COCC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | potassium tert-butoxide | 1.9 mmol, 210 mg | CC(C)([O-])C.[K+]
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-5-{3-[(methyloxy)methyl]phenyl}-2-thiophenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C=1SC(=CC1)C1=CC(=CC=C1)COC)OC | C25H31N3O4S2
